Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Hypertensive emergency
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of hypertension and hypertensive 
urgency, transferred from OSH for headache and HTN. SBP 250s 
over 120s. Treated with IV labetalol, enalapril, PO metoprolol 
and nicardipine, and nitro paste.  She continued to remain 
hypertensive so started on nicardipine gtt. Head CT negative 
there. EKG shows non-specific TWIs. No ICU beds at ___ so 
transferred here. Patient was 174/100 on EMS arrival at OSH.

Patient reportedly stopped taking home metoprolol, lisinopril 
and HCTZ over past week and has been having HAs similar to prior 
migraine headaches.  Upon asking her this, she states she had 
not been taking these medications ___ weeks ago, but began them 
again this past week.

In the ED, initial vitals were 98.1 82 142/90 16 95% RA.  
Patient was asymptomatic, and nicardipine gtt was stopped.  Labs 
showed WBC 13K, hematocrit 47%.  She was given oxycodone 15 mg 
PO x 1 and metoclopramide 10 mg x 1.

Upon arrival to the floor, SBP is in 220s and patient complains 
of headache, which has been present over last few weeks.
 
 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Hypertension
Depression
Hypothyroidism
 
Social History:
___
Family History:
Mother with CVA
Father with CAD
Multiple family members with hypertension

 
Physical Exam:
ADMISSION EXAM:
Vitals: 97.7PO ___ 100 RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in all major muscle groups, sensation to light touch intact, 
non-focal.  
PSYCH: Appropriate and calm. 

DISCHARGE EXAM:
VS: 98.0
PO 152 / 88
R Lying 66 20 100 RA 
GEN: Alert, oriented to name, place and time. NAD 
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
CV: S1S2, reg rate and rhythm, soft ___ systolic murmur, rubs or 
gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in all major muscle groups, sensation to light touch intact, 
non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
ADMISSION LABS:
___ 12:22AM BLOOD WBC-13.8* RBC-5.11 Hgb-14.9 Hct-47.1* 
MCV-92 MCH-29.2 MCHC-31.6* RDW-14.7 RDWSD-49.3* Plt ___
___ 12:22AM BLOOD Neuts-67.9 ___ Monos-7.0 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-9.33* AbsLymp-3.27 AbsMono-0.97* 
AbsEos-0.06 AbsBaso-0.06
___ 12:22AM BLOOD Glucose-109* UreaN-10 Creat-0.6 Na-140 
K-4.0 Cl-103 HCO3-24 AnGap-17
___ 12:22AM BLOOD ALT-18 AST-20 AlkPhos-65 TotBili-0.5
___ 12:22AM BLOOD Albumin-4.6 Calcium-9.9 Phos-2.9 Mg-2.0
___ 12:28AM BLOOD Lactate-1.7

___ 07:20AM BLOOD WBC-10.1* RBC-4.88 Hgb-14.4 Hct-45.4* 
MCV-93 MCH-29.5 MCHC-31.7* RDW-14.7 RDWSD-50.6* Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-120* UreaN-19 Creat-0.7 Na-142 
K-4.4 Cl-103 HCO3-27 AnGap-16
___ 09:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 12:22AM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD Calcium-9.9 Phos-3.4 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of hypertension 
and hypertensive urgency, hypothyroidism; transferred from OSH 
for headache and likely hypertensive emergency (SBP as high as 
220s on admission with persistent headache, nausea). All of her 
symptoms resolved after control of her blood pressure was 
achieved by the addition of another agent (labetalol). Her 
metoprolol was discontinued and the labetalol dose was 
uptitrated to 400mg TID with good response. She will be 
discharged home with a plan to follow up with her PCP. 

Rest of hospital course/plan are outlined below by issue. 

# Hypertensive crisis
# Chronic hypertension
# Headache: SBP as high as 220s on admission with persistent 
headache, nausea.  She received numerous medications at OSH, 
with much difficulty controlling BP.  Patient arrived to floor 
with SBP 220s, now better controlled.   She was briefly on 
nitropaste, and started on labetalol, which was uptitrated.  She 
was continued on her home lisinopril.  Her home metoprolol was 
discontinued.  CT head was checked at OSH, with no intracranial 
pathology.  She is on her home oxycodone for pain. I paged 
radiology and confirmed there were no concerning findings on CT 
of the head (final read was pending at the time of discharge). 

# Leukocytosis: unclear cause, improved without specific 
intervention, UA negative, CXR without pneumonia, asymptomatic 
other than dry cough which resolved the following day. Pt stated 
she has a hx of asthma (no home meds) and this happens 
occasionally. 
 
# Hypothyroidism: continued home levothyroxine

# Depression: continued home paroxetine

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will follow up with her PCP, with further 
BP titration.

On the day of discharge, she was anxious to go home. Her BP was 
elevated to SBP 180s early in the morning which was well 
controlled by uptitrating her labetalol by the early afternoon. 
She denied any headache, weakness, chest pain, nausea, or 
vomiting. I reviewed the plan to follow up with her PCP ___ 
___ days. 

spent > 30 minutes seeing the patient and organizing discharge. 
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 40 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. PARoxetine 10 mg PO DAILY 
5. OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN pain 
4. PARoxetine 10 mg PO DAILY 
5. Labetalol 400 mg PO TID 
RX *labetalol 200 mg 2 tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive emergency
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent stay at 
___.  You came for severely high blood pressure, for which 
treatment with multiple medications was attempted.  We finally 
got control of your blood pressure and have switched some of 
your medications around.  You are now on a medication called 
labetalol, instead of metoprolol, which has been discontinued.  
You will continue taking your home lisinopril.  

It is very important that you continue to take your home 
medications as prescribed and follow up with the appointment 
listed below.
 
Followup Instructions:
___